US06174881B1
800 ml of aqueous ammonia solution (25%) were added to a solution of 27.6 g of 7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepine-2(1H)-thione (J. B. Hester jr., A. D. Rudzik and B. V. Bharat, J.Med. Chem., 1971, 14, 1078-1081) in 900 ml of tetrahydrofuran and the mixture was stirred intensively at room temperature for 72 h. The separated organic phase was concentrated in a vacuum to about 50 ml and the crystals which thereby separated were filtered off. Drying was carried out in a vacuum at 50° C., firstly over calcium chloride, then over phosphorus pentoxide. There were obtained 22.8 g (87%) of 7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamine as a pale yellow crystalline powder of m.p. 248-249° C. (dec.) which was used without further purification for the steps described below.

reactant | ammonia | 800 ml | N | H3N
reactant | 7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepine-2(1H)-thione | 27.6 g | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)F)C1 | C15H10ClFN2S
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamine | 22.8 g, 87% | ClC=1C=CC2=C(C(=NCC(=N2)N)C2=C(C=CC=C2)F)C1 | C15H11ClFN3
